US07429609B2
4-Bromo-5-fluoro-2-methylphenylamine
To a solution of 49.0 g of 5-fluoro-o-toluidine in 600 mL of dichloromethane was added 69.7 g of N-bromosuccinimide at 0° C., and stirred at this temperature for an hour. Then sodium thiosulfate aqueous solution was added, and the reaction solution was evaporated and diluted with ethyl acetate. The organic layer was washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. Then the solvent was evaporated, and the precipitated crystals were washed with diethyl ether:n-hexane=1:10, to afford 81.6 g of the title compound as colorless crystals.

reactant | 5-fluoro-o-toluidine | 49.0 g | FC1=CC=C(C(N)=C1)C | C7H8FN
reactant | N-bromosuccinimide | 69.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 4-Bromo-5-fluoro-2-methylphenylamine | 81.6 g | BrC1=CC(=C(C=C1F)N)C | C7H7BrFN
